US08877754B2
1-Bromo-4-[(4-ethoxyphenyl)ethynyl]benzene
To 1.60 g (11.0 mmol) 4-ethoxyphenylacetylene in 40 mL THF are added 3.10 g (11.0 mmol) 1-bromo-4-iodo-benzene under argon, followed by 0.18 g (0.22 mmol) Pd(dppf)Cl2CH2Cl2 as catalyst, 0.04 g (0.22 mmol) copper(I)iodide and 3.10 mL (21.9 mmol) diisopropylamine as base. The mixture is stirred at rt for 3 h. After that time, EtOAc is added and the organic layer is washed with ammonia (5%, 2×) and water (1×). The organic layer is separated, dried over magnesium sulphate and the solvent is evaporated. The residue is purified by column chromatography (silicia gel; PE:EtOAc 9:1) to yield the desired product.

reactant | 4-ethoxyphenylacetylene | 11.0 mmol, 1.60 g | C(C)OC1=CC=C(C=C1)C#C | C10H10O
reactant | 1-bromo-4-iodo-benzene | 11.0 mmol, 3.10 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | diisopropylamine | 21.9 mmol, 3.10 mL | C(C)(C)NC(C)C | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | copper(I)iodide | 0.22 mmol, 0.04 g | [Cu]I
product | 1-Bromo-4-[(4-ethoxyphenyl)ethynyl]benzene | BrC1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCC | C16H13BrO
